US06956052B2
1-Bromo-3,4,5 trifluorobenzene (5 g, 24 mmol) was added to a slurry of Pd(OAc)2 (0.269 g, 5 mol %), bisdiphenylphosphino-ferrocene (1.0 g, 7 mol %) in anhydrous toluene (50 mL) at rt. Benzophenone hydrazone (4.9 g) was added, stirred for 5 min following by addition of dried cesium acetate (9.33 g) and toluene (40 mL). The flask was removed from a glove box and heated to 86° C. for 72 hours. The reaction was monitored by disappearance of bromotrifluourobenzene by LC (210 nm) or 19F NMR. The reaction mixture was cooled down to room temperature and filtered through a sintered glass funnel. The solvent was removed under the vacuum. The orange solid residue was re-dispersed in ether (15 mL) and hexane (150 mL) and heated up to 58° C., stirred for 20 min. The hot solution was quickly filtered, solid discarded and the solution was allowed to cool to room temperature, stirred for 30 min, then 1 hour at 4° C. The formed slurry was filtered, washed with cold hexane (2×25 mL). Crystals were dried in air then in the vacuum at 80° C. for 1 hour to give 5 g of diphenylmethanone (3,4,5-trifluorophenyl)hydrazone (64% yield) as a yellowish solid.

reactant | 1-Bromo-3,4,5 trifluorobenzene | 24 mmol, 5 g | BrC1=CC(=C(C(=C1)F)F)F | C6H2BrF3
reactant | Benzophenone hydrazone | 4.9 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NN | C13H12N2
reactant | cesium acetate | 9.33 g | C(C)(=O)[O-].[Cs+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.269 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | bisdiphenylphosphino-ferrocene | 1.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | diphenylmethanone (3,4,5-trifluorophenyl)hydrazone | 5 g, 64% yield | FC=1C=C(C=C(C1F)F)NN=C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H13F3N2
